US07705053B2
Production of 3-N-(3-ethynylphenyl)-4-methoxyisophthalamide (Compound 1-3-25)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 3-ethynylaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 3-ethynylaniline | C(#C)C=1C=C(N)C=CC1 | C8H7N
product | 3-N-(3-ethynylphenyl)-4-methoxyisophthalamide | C(#C)C=1C=C(C=CC1)NC(C=1C=C(C(=O)N)C=CC1OC)=O | C17H14N2O3
